US05356897
2-(4-Fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine dihydrochloride (183 mg) was dissolved in hot aqueous isopropyl alcohol solution (5.5 ml). The solution was cooled and the separated solid was collected, washed with isopropyl alcohol and dried to give 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine hydrochloride (82 mg).

reactant | 2-(4-Fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine dihydrochloride | 183 mg | Cl.Cl.FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1
solvent | isopropyl alcohol | 5.5 ml | C(C)(C)O | C3H8O
product | 2-(4-fluorophenyl)-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine hydrochloride | 82 mg | Cl.FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC=NC=C1 | InChI=1S/C17H15FN4.ClH/c18-14-4-2-13(3-5-14)16-15(12-6-9-19-10-7-12)17-20-8-1-11-22(17)21-16;/h2-7,9-10,20H,1,8,11H2;1H
